US07893056B2
To a solution of racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,4,4-tetramethyl-3-pyrrolidinamine (7.37 g, 24.34 mmol, prepared according to the procedures of Example 133) in DMF (77 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (7.08 g, 23.18 mmol), N-methylmorpholine (12.75 mL, 116.0 mmol), 1-hydroxy-7-azabenzotriazole (3.79 g, 27.85 mmol), and EDC (5.33 g, 27.80 mmol). The solution was stirred overnight and was then diluted with Et2O (100 mL) and washed with water (3×100 mL). The combined aqueous phase was extracted with a fresh portion of Et2O (100 mL), and this organic phase was washed with a fresh portion of water (50 mL). The combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was diluted with EtOAc (200 mL), and the resulting solution was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to afford crude [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (12.52 g, 92% yield, mixture of diastereomers). LCMS: (M+H)+: 590.2.

reactant | racemic 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,4,4-tetramethyl-3-pyrrolidinamine | ClC1=NC(=C(C(=N1)N1CC(C(C1)(C)C)N(C)C)F)NN | C12H20ClFN6
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 23.18 mmol, 7.08 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | N-methylmorpholine | 116.0 mmol, 12.75 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 27.85 mmol, 3.79 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 27.80 mmol, 5.33 g
solvent | DMF | 77 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 12.52 g, 92% yield | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1CC(C(C1)N(C)C)(C)C | C29H41ClFN7O3
